2145-03-13 09:11:00 Physician Attending Progress Note
Chief Complaint: Septic shock/respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo man admitted to [**Hospital3 588**] on [**2-28**] with Klebsiella PNA, covered
   with Levo/Flagyl, US with CBD dilitation.  course c/b NSTEMI, medically
   managed.  On [**3-11**] - ERCP - stones,filling defects, during procedure
   became HOTNsive/hypoxemic, intubated - went to MICU and transferred to
   [**Hospital1 54**] on Vanco/Zosyn and dopamine drip.  Overnight came off dopamine,
   but then required restart of levophed.   Has Swan in.
   24 Hour Events:
 ARTERIAL LINE - START [**2145-3-12**] 10:44 PM
   placed at OSH on [**3-11**]
 BLOOD CULTURED - At [**2145-3-12**] 11:04 PM
 URINE CULTURE - At [**2145-3-12**] 11:04 PM
 INVASIVE VENTILATION - START [**2145-3-12**] 11:05 PM
 EKG - At [**2145-3-12**] 11:36 PM
 PA CATHETER - START [**2145-3-13**] 01:27 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Lipitor
   ASA
   Tiatropium
   Hep s/q
   Vanco/Zosyn
   Changes to medical and family history:
   h/o COPD, Temporal arteritis, Waldenstrom's, former heavy smoker.
   Pulmonary HTN.
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-13**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 96 (80 - 97) bpm
   BP: 101/53(69){79/37(50) - 112/56(75)} mmHg
   RR: 32 (18 - 34) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: [**7-26**] (6 - 303)mmHg
   PAP: (84 mmHg) / (40 mmHg)
   PCWP:) mmHg
   CO/CI (Thermodilution): (5.67 L/min) / (3.4 L/min/m2)
   SVR: 635 dynes*sec/cm5
   SV: 62 mL
   SVI: 37 mL/m2
   Total In:
                                                                     21 mL
                                                                  5,051 mL
   PO:
   TF:
   IVF:
                                                                     21 mL
                                                                  5,051 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    495 mL
   Urine:
                                                                    300 mL
                                                                    495 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                   -379 mL
                                                                  4,556 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 317 (317 - 485) mL
   PS : 10 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 102
   PIP: 16 cmH2O
   SpO2: 89%
   ABG: 7.28/43/89.[**Numeric Identifier 128**]/21/-6
   Ve: 10.4 L/min
   PaO2 / FiO2: 89
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Anicteric, PERRL
   Lungs: Clear
   CV. S1,S2
   Abd: +BS soft
   Ext: Warm, no edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   159 K/uL
   85 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.9 mEq/L
   17 mg/dL
   116 mEq/L
   145 mEq/L
   27.9 %
   4.5 K/uL
        [image002.jpg] 7.28/43/89 (last night)  Vanco trough:8.2
   [**3-10**] Coag neg staph
 cultures.
   CXR with RLL effusion and mild pulmonary edema
                             [**2145-3-13**]  03:53 AM
   WBC
   4.5
   Hct
   27.9
   Plt
   159
   Cr
   1.3
   Glucose
   85
   Other labs: Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 CHOLANGITIS  Getting ERCP today continue Vanco and Zosyn.    Await
   cx. Results, if neg can d/c Vanco
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION):  On levophed, aim CVP around
   16 at this point.  Consider steroids if still requiring pressors after
   ERCP.
   Resiratory Failure:  CXR with evidence of pulm edema, but may be
   non-cardiogenic. Gram positives in sputum, but [**Male First Name (un) **]
t suspect PNA.
 PULMONARY HYPERTENSION (PULM HTN, PHTN)  [**Month (only) 60**] be related to COPD, and
   consider Viagra is still having resp. failure or HOTN, after sepsis
   resolves.
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)  echo at [**Hospital1 589**] is 60%.  Diffuse Tw inversion on EKG, follow enzymes which are
   thus far negative.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  Improved likely ATN
   given FeNa of 5% due to sepsis.
   ICU Care
   Nutrition:
   Glycemic Control:  Has been stable
   Lines:   Will change PA line to TLC.
   Arterial Line - [**2145-3-12**] 10:44 PM
   PA Catheter - [**2145-3-13**] 01:27 AM
   20 Gauge - [**2145-3-13**] 01:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:   2 daughters
   [**Name (NI) 66**] status: Full code
   Disposition :  ICU
   Total time spent:  45min

2145-03-14 07:47:00 Physician Resident Progress Note
Chief Complaint: biliary sepsis
   24 Hour Events:
 ENDOSCOPY - At [**2145-3-13**] 09:00 AM
   - ERCP w/ billiary stent placement done at bedside 0900-0945. Pt
   tolerated procedure w/o significant changes in hemodynamic status.
   However,  worsened afterwards, requiring vent change to AC from PS, and
   eventually max'ed out on levophed. Added vasopressin as second [**Doctor Last Name **].
   Noted to have b/l infiltrates on CXR, a P/F ratio <200, and no cardiac
   etiology (Calculated cardiac outpt and index to be acceptable via Fick
   equation), so suspected ARDS and changes to ARDSnet vent protocol. (TTE
   was ordered to confirm that CO was ok, but never performed). Continued
   to worsen with increasing FiO2 requirements and persistent acidemia.
   Received bicarb to allow optimal environment for vasopressive drugs.
   Apache score was >30. Pt was started on Xigris.
   - viagra was given in effort to reduce PAH but pt became hypotensive,
   got 500cc LR.
   SUBJ:
   intubated and sedated but alert enough to interact and follow simple
   commands
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-3-13**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-14**] 04:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Vasopressin - 2.4 units/hour
   Drotrecogin - 24 mcg/Kg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-14**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.5
C (97.7
   HR: 66 (66 - 111) bpm
   BP: 117/54(78){78/42(57) - 117/59(81)} mmHg
   RR: 30 (12 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 16 (10 - 326)mmHg
   PAP: (61 mmHg) / (26 mmHg)
   PCWP: 18 (16 - 19) mmHg
   CO/CI (Thermodilution): (5.26 L/min) / (3.1 L/min/m2)
   SVR: -3,163 dynes*sec/cm5
   SvO2: 43%
   Mixed Venous O2% Sat: 69 - 69
   SV: 81 mL
   SVI: 48 mL/m2
   Total In:
                                                                  9,847 mL
                                                                  1,167 mL
   PO:
                                    TF:
                                    12 mL
   IVF:
                                                                  9,847 mL
                                                                  1,076 mL
   Blood products:
   Total out:
                                                                    930 mL
                                                                    119 mL
   Urine:
                                                                    930 mL
                                                                    109 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,917 mL
                                                                  1,048 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (350 - 600) mL
   Vt (Spontaneous): 317 (317 - 317) mL
   PS : 10 cmH2O
   RR (Set): 30
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.18/55/95.[**Numeric Identifier 607**]/19/-8
   Ve: 11.1 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Well nourished, elderly
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, No(t) Crackles : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, anasarca
   Skin:  Not assessed, Rash: multiple ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   174 K/uL
   10.4 g/dL
   149 mg/dL
   1.7 mg/dL
   19 mEq/L
   5.1 mEq/L
   23 mg/dL
   109 mEq/L
   142 mEq/L
   35.2 %
   5.7 K/uL
        [image002.jpg]
                             [**2145-3-13**]  03:36 PM
                             [**2145-3-13**]  05:12 PM
                             [**2145-3-13**]  06:05 PM
                             [**2145-3-13**]  06:14 PM
                             [**2145-3-13**]  08:11 PM
                             [**2145-3-13**]  09:15 PM
                             [**2145-3-13**]  11:13 PM
                             [**2145-3-13**]  11:27 PM
                             [**2145-3-14**]  04:34 AM
                             [**2145-3-14**]  04:45 AM
   WBC
   6.6
   5.7
   Hct
   29
   32.7
   31
   35.2
   Plt
   174
   181
   174
   Cr
   1.5
   1.6
   1.7
   TropT
   0.03
   TCO2
   22
   19
   27
   26
   25
   23
   22
   Glucose
   87
   109
   149
   Other labs: PT / PTT / INR:18.1/87.6/1.7, CK / CKMB /
   Troponin-T:24/3/0.03, ALT / AST:29/44, Alk Phos / T Bili:137/0.8,
   Amylase / Lipase:98/21, Differential-Neuts:74.8 %, Lymph:16.4 %,
   Mono:7.7 %, Eos:0.7 %, Fibrinogen:327 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.2 g/dL, LDH:334 IU/L, Ca++:7.1 mg/dL, Mg++:2.0 mg/dL, PO4:5.1
   mg/dL
   Imaging: [**3-14**] CXR PND
   CHEST SINGLE VIEW ON [**3-13**]
   HISTORY:  Bacteremia, check OGT.
   FINDINGS:  The OGT tip is in the proximal stomach.  The ET tube tip is
   3.5 cm
   above the carina.  The Swan-Ganz catheter tip is in the right
   descending
   pulmonary artery.  There are moderate bilateral effusions right greater
   than
   left, slightly increased compared to the film from the prior day.
   There is
   bilateral lower lobe volume loss/infiltrate, it is unclear if this is
   all
   secondary to fluid and volume loss, although an underlying infectious
   infiltrate could be present.  There is pulmonary vascular
   redistribution with
   hazy vasculature consistent with CHF.
   IMPRESSION:  Increased CHF.
   Microbiology: 1)
   [**2145-3-13**] 12:56 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2145-3-13**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Pending):
   .
   2)
   [**2145-3-12**] 9:53 pm BLOOD CULTURE      X2.
      Blood Culture, Routine (Pending):
   .
   3)
   [**2145-3-12**] 9:54 pm URINE      Source: Catheter.
      URINE CULTURE (Pending):
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 likely biliary in etiology
   -          continue vancomycin and pip/taz (for MRSA and Klebsiella
   from OSH, respectively)
   -          bolus to CVP >15
   -          continue stress dose steroids (hydrocortisone) and tight
   glycemic control
   -          continue levophed and vasopressin keeping MAP >65
   -          No need for sodium bicarb for maximal efficacy of pressors
   even if pH <7.2
   -          continue Xigris x 96 hours total
   -          continue vent settings as close to ARDSnet as possible
   -          check [**Hospital1 **] PT/PTT, platelets while on Xigris
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
   -          will have to adjust CVP goals accordingly
   -          does NOT tolerate sildenafil
 hypotension
   -          TTecho ordered to better assess
 CHOLANGITIS
 afebrile with no leukocytosis
   -          s/p ERCP with stenting
   -          vanc and zosyn as above for OSH isolates
 Acidosis
 Multiple contributors. PaCO2 is elevated, causing a
   respiratory acidosis contribution. Also, pt has a mild AG of 14 which
   is actually larger given his low albumin. The DDx of this includes
   lactic acidosis from hypoperfusion, but lactates have been WNL. Is
   slightly more uremic by labs today and this may be the metabolic cause
   for his AG acidosis. No DKA. No known ingestions in hospital setting.
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          Continue ASA, statin
   -          No BB given hypotension
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -          worsening, may be ATN from hypotension
   -          monitor urine output as dropping overnight
   -          would not bolus (or diureses) to achieve any specific urine
   output, is already anasarcic and hypotensive on pressors
 COPD
   -          Continue tiotropium when off vent; prn atrovent/albuterol
   ICU Care
   Nutrition:
   Replete with Fiber ([**2-12**]) - [**2145-3-14**] 06:00 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2145-3-12**] 10:44 PM
   PA Catheter - [**2145-3-13**] 01:27 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI deferred
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care

2145-03-14 10:12:00 Physician Attending Progress Note
Chief Complaint: Septic shock due to cholangitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Septic shock and respiratory failure.
   24 Hour Events:
 ENDOSCOPY - At [**2145-3-13**] 09:00 AM
   ERCP w/ billiary stent placement done at bedside 0900-0945. Pt
   tolerated procedure w/o significant changes in hemodynamic status.
   Remained free of distress.
   Became hypotensive after Viagra started so it was held.
   Xigris started.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-3-13**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-14**] 04:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Vasopressin - 2.4 units/hour
   Drotrecogin - 24 mcg/Kg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Fentayl
   Versed
   lipitor
   protonix
   chlorehexadine
   medrol 100mg q8h
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-3-14**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98.1
   HR: 66 (66 - 111) bpm
   BP: 109/53(74){78/42(62) - 117/59(81)} mmHg
   RR: 30 (12 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 25 (10 - 326)mmHg
   PAP: (61 mmHg) / (28 mmHg)
   PCWP: 16 (16 - 19) mmHg
   CO/CI (Thermodilution): (5.26 L/min) / (3.1 L/min/m2)
   SvO2: 73%
   Mixed Venous O2% Sat: 69 - 69
   SV: 79 mL
   SVI: 47 mL/m2
   Total In:
                                                                  9,847 mL
                                                                  1,472 mL
   PO:
   TF:
                                                                     36 mL
   IVF:
                                                                  9,847 mL
                                                                  1,356 mL
   Blood products:
   Total out:
                                                                    930 mL
                                                                    119 mL
   Urine:
                                                                    930 mL
                                                                    109 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,917 mL
                                                                  1,353 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (350 - 600) mL
   RR (Set): 30
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.23/52/102/19/-6
   Ve: 11.4 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed, Moving
   all four extremities
   Labs / Radiology
   10.4 g/dL
   174 K/uL
   149 mg/dL
   1.7 mg/dL
   19 mEq/L
   5.1 mEq/L
   23 mg/dL
   109 mEq/L
   142 mEq/L
   26
   5.7 K/uL
        [image002.jpg]
                             [**2145-3-13**]  06:05 PM
                             [**2145-3-13**]  06:14 PM
                             [**2145-3-13**]  08:11 PM
                             [**2145-3-13**]  09:15 PM
                             [**2145-3-13**]  11:13 PM
                             [**2145-3-13**]  11:27 PM
                             [**2145-3-14**]  04:34 AM
                             [**2145-3-14**]  04:45 AM
                             [**2145-3-14**]  08:20 AM
                             [**2145-3-14**]  08:40 AM
   WBC
   6.6
   5.7
   Hct
   32.7
   31
   35.2
   26
   26
   Plt
   174
   181
   174
   Cr
   1.5
   1.6
   1.7
   TropT
   0.03
   TCO2
   27
   26
   25
   23
   22
   23
   Glucose
   87
   109
   149
   Other labs: PT / PTT / INR:18.3/91.7/1.7, CK / CKMB /
   Troponin-T:24/3/0.03, ALT / AST:29/44, Alk Phos / T Bili:137/0.8,
   Amylase / Lipase:98/21, Differential-Neuts:74.8 %, Lymph:16.4 %,
   Mono:7.7 %, Eos:0.7 %, Fibrinogen:327 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.2 g/dL, LDH:334 IU/L, Ca++:7.1 mg/dL, Mg++:2.0 mg/dL, PO4:5.1
   mg/dL
   Assessment and Plan
 CHOLANGITIS:  No evidence of continued obstruction as LFTs are
   stable.  Continue Vanco and Zosyn.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)  Change medrol to hydrocort
   100mg q8h.  Continue Xigris/PTT is stable.
 PULMONARY HYPERTENSION (PULM HTN, PHTN)  Pulmonary pressures better
   today, but not tolerated viagra, so will hold off.
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)  Cardiac
   enzymes stable.  Prior NSTEMI
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)  ATN due to sepsis.
   U/O is low.
   ARDS/Respiratory Failure.  Volume is currently 400ml which is about
   7cc/kg.  continue ARDSnet ventilation at current Vt given acidosis.
   Acidosis:  AG = 7 when corrected for albumin.  likely from renal
   failure, hold on further Bicarbonate.
   ICU Care
   Nutrition:
   Replete with Fiber ([**2-12**]) - [**2145-3-14**] 06:00 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2145-3-12**] 10:44 PM
   PA Catheter - [**2145-3-13**] 01:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:   60 minutes

2145-03-15 10:16:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No new + BC
   24 Hour Events:
 EKG - At [**2145-3-14**] 09:00 AM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-3-13**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-15**] 04:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Drotrecogin - 24 mcg/Kg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2145-3-15**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Gastrointestinal: Distended
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-3-15**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 54 (54 - 73) bpm
   BP: 104/50(69){87/44(61) - 134/66(93)} mmHg
   RR: 30 (27 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
   PAP: (60 mmHg) / (24 mmHg)
   PCWP: 13 (13 - 15) mmHg
   CO/CI (Thermodilution): (6.24 L/min) / (3.7 L/min/m2)
   SVR: -3,038 dynes*sec/cm5
   SV: 95 mL
   SVI: 57 mL/m2
   Total In:
                                                                  3,009 mL
                                                                  1,140 mL
   PO:
   TF:
                                                                    366 mL
                                                                    260 mL
   IVF:
                                                                  2,523 mL
                                                                    640 mL
   Blood products:
   Total out:
                                                                    559 mL
                                                                    250 mL
   Urine:
                                                                    529 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,450 mL
                                                                    890 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.29/49/107/24/-3
   Ve: 10 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Crackles : scattered)
   Abdominal: Non-tender, Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   131 K/uL
   273 mg/dL
   1.9 mg/dL
   24 mEq/L
   4.1 mEq/L
   43 mg/dL
   110 mEq/L
   141 mEq/L
   27.4 %
   4.3 K/uL
        [image002.jpg]
                             [**2145-3-14**]  04:45 AM
                             [**2145-3-14**]  08:20 AM
                             [**2145-3-14**]  08:40 AM
                             [**2145-3-14**]  12:48 PM
                             [**2145-3-14**]  01:45 PM
                             [**2145-3-14**]  08:30 PM
                             [**2145-3-14**]  08:33 PM
                             [**2145-3-15**]  04:10 AM
                             [**2145-3-15**]  04:35 AM
                             [**2145-3-15**]  05:55 AM
   WBC
   4.2
   4.3
   Hct
   26
   26
   31.8
   31.6
   27.4
   Plt
   134
   135
   131
   Cr
   1.8
   1.9
   1.9
   TCO2
   22
   23
   22
   24
   25
   25
   Glucose
   200
   246
   273
   Other labs: PT / PTT / INR:16.4/77.9/1.5, CK / CKMB /
   Troponin-T:24/3/0.03, ALT / AST:20/25, Alk Phos / T Bili:105/0.5,
   Amylase / Lipase:64/18, Differential-Neuts:74.8 %, Lymph:16.4 %,
   Mono:7.7 %, Eos:0.7 %, Fibrinogen:327 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.3 g/dL, LDH:334 IU/L, Ca++:6.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
 CHOLANGITIS - WBC, LFTs improving. No new + cx.  Vanco Zosyn
   continues
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION) - completing course of APC.
   Remains on stress steroids.  PA Cath suggests he is somewhat
   underfilled. We have gotten an echo. Will give 1 U PRBC today and
   reassess hemodynamics.  Needs PA Catheter removed today and will resite
   line.  Holding APC for procedure.
 PULMONARY HYPERTENSION (PULM HTN, PHTN) - not currently a problem
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE) - had an NSTEMI
   at [**Hospital3 629**].  No further episodes of ischemia. Likely demand
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - creat above
   baseline but stable since yesterday. UO low.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-3-15**] 02:39 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2145-3-12**] 10:44 PM
   PA Catheter - [**2145-3-13**] 01:27 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes
   Patient is critically ill

2145-03-16 11:10:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2145-3-15**] 09:16 AM
 BLOOD CULTURED - At [**2145-3-15**] 12:17 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-3-15**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-16**] 10:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 0.1 mg/hour
   Insulin - Regular - 7 units/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.13 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2145-3-16**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Respiratory: Ventilator
   Endocrine: Hyperglycemia
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2145-3-16**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 66 (57 - 69) bpm
   BP: 115/54(75){81/48(64) - 121/61(84)} mmHg
   RR: 29 (0 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 327 (30 - 345)mmHg
   PAP: (76 mmHg) / (33 mmHg)
   PCWP: 19 (13 - 19) mmHg
   CO/CI (Thermodilution): (5.25 L/min) / (3.1 L/min/m2)
   SVR: 792 dynes*sec/cm5
   PVR: 488 dynes*sec/cm5
   SV: 81 mL
   SVI: 48 mL/m2
   Total In:
                                                                  4,154 mL
                                                                  1,509 mL
   PO:
   TF:
                                                                  1,145 mL
                                                                    320 mL
   IVF:
                                                                  1,884 mL
                                                                    604 mL
   Blood products:
                                                                    586 mL
                                                                    164 mL
   Total out:
                                                                    602 mL
                                                                    370 mL
   Urine:
                                                                    602 mL
                                                                    290 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                  3,552 mL
                                                                  1,139 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.21/61/75/24/-4
   Ve: 11.2 L/min
   PaO2 / FiO2: 125
   Physical Examination
   General Appearance: Frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Crackles : diffuse)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 2+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   120 K/uL
   153 mg/dL
   1.8 mg/dL
   24 mEq/L
   3.7 mEq/L
   48 mg/dL
   109 mEq/L
   140 mEq/L
   33.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2145-3-15**]  04:35 AM
                             [**2145-3-15**]  05:55 AM
                             [**2145-3-15**]  11:32 AM
                             [**2145-3-15**]  01:08 PM
                             [**2145-3-15**]  01:32 PM
                             [**2145-3-15**]  04:42 PM
                             [**2145-3-15**]  07:51 PM
                             [**2145-3-15**]  10:39 PM
                             [**2145-3-16**]  05:17 AM
                             [**2145-3-16**]  06:17 AM
   WBC
   9.4
   Hct
   20.7
   28.9
   29
   33.1
   Plt
   120
   Cr
   1.9
   1.8
   TCO2
   25
   25
   26
   26
   26
   26
   26
   Glucose
   286
   153
   Other labs: PT / PTT / INR:14.0/34.5/1.2, CK / CKMB /
   Troponin-T:24/3/0.03, ALT / AST:20/25, Alk Phos / T Bili:105/0.5,
   Amylase / Lipase:64/18, Differential-Neuts:91.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:2.0 %, Eos:Units: %
   Range: 0-4 %, D-dimer:2864 ng/mL, Fibrinogen:260 mg/dL, Lactic Acid:1.0
   mmol/L, Albumin:2.3 g/dL, LDH:334 IU/L, Ca++:6.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])  - severe ARDS. Continuing
   to have pos fluid balance and is still requiring considerable PEEP and
   a high FIO2. Might need to measure Pes to better assess PEEP
   requirement
 CHOLANGITIS
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION) - [**5-14**] pos BC from [**Hospital3 629**]
   for Klebsiella and now a pos cx for yeast. Will start Caspo and discuss
   with ID. Off of APC. Needed higher pressor doses overnight. We are
   changing his lines today now that he is out further from his APC.
 ANEMIA, OTHER - 2ary to blood loss. Some of this is hematoma at line
   site
 PULMONARY HYPERTENSION (PULM HTN, PHTN) - substantial by echo.
   Likely worse due to ARDS and hypoxia. Primary problem is the RV
   distention compromising LV filling
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-3-15**] 11:13 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2145-3-12**] 10:44 PM
   PA Catheter - [**2145-3-13**] 01:27 AM
   22 Gauge - [**2145-3-15**] 08:14 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes
   Patient is critically ill

2145-03-17 10:14:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Made DNR by family
   24 Hour Events:
 BLOOD CULTURED - At [**2145-3-16**] 12:02 PM
 MULTI LUMEN - START [**2145-3-16**] 02:30 PM
 PA CATHETER - STOP [**2145-3-16**] 04:00 PM
 BLOOD CULTURED - At [**2145-3-17**] 12:52 AM
 BLOOD CULTURED - At [**2145-3-17**] 05:33 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-3-15**] 12:00 PM
   Caspofungin - [**2145-3-16**] 02:58 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-17**] 10:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 2.5 units/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2145-3-16**] 02:04 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Respiratory: ventilator
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-3-17**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 64 (58 - 69) bpm
   BP: 114/55(74){94/43(58) - 134/65(90)} mmHg
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 12 (11 - 16)mmHg
   PAP: (64 mmHg) / (30 mmHg)
   Total In:
                                                                  3,240 mL
                                                                  1,181 mL
   PO:
   TF:
                                                                    720 mL
                                                                    302 mL
   IVF:
                                                                  1,736 mL
                                                                    490 mL
   Blood products:
                                                                    164 mL
   Total out:
                                                                  1,030 mL
                                                                    660 mL
   Urine:
                                                                    890 mL
                                                                    660 mL
   NG:
                                                                    140 mL
   Stool:
   Drains:
   Balance:
                                                                  2,210 mL
                                                                    521 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: 7.32/47/86/25/-2
   Ve: 12.5 L/min
   PaO2 / FiO2: 143
   Physical Examination
   General Appearance: frail
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Loud), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   bibasilar), (Breath Sounds: Crackles : mid insp)
   Abdominal: Soft
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   89 K/uL
   116 mg/dL
   1.8 mg/dL
   25 mEq/L
   3.7 mEq/L
   53 mg/dL
   111 mEq/L
   143 mEq/L
   26.9 %
   7.6 K/uL
        [image002.jpg]
                             [**2145-3-15**]  04:42 PM
                             [**2145-3-15**]  07:51 PM
                             [**2145-3-15**]  10:39 PM
                             [**2145-3-16**]  05:17 AM
                             [**2145-3-16**]  06:17 AM
                             [**2145-3-16**]  12:08 PM
                             [**2145-3-16**]  05:08 PM
                             [**2145-3-16**]  05:15 PM
                             [**2145-3-17**]  05:10 AM
                             [**2145-3-17**]  05:36 AM
   WBC
   9.4
   8.4
   7.6
   Hct
   29
   33.1
   30.0
   26.9
   Plt
   120
   108
   89
   Cr
   1.8
   1.9
   1.8
   TCO2
   26
   26
   26
   26
   27
   26
   25
   Glucose
   153
   109
   116
   Other labs: PT / PTT / INR:14.2/38.3/1.2, CK / CKMB /
   Troponin-T:24/3/0.03, ALT / AST:20/25, Alk Phos / T Bili:105/0.5,
   Amylase / Lipase:64/18, Differential-Neuts:91.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:2.0 %, Eos:Units: %
   Range: 0-4 %, D-dimer:2864 ng/mL, Fibrinogen:260 mg/dL, Lactic Acid:0.9
   mmol/L, Albumin:2.3 g/dL, LDH:334 IU/L, Ca++:6.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) - severe ARDS with
   persistently pos fluid balance seems unlikely we will make substantial
   progress decreasing support. Continuing ARDSNet protocol ventilation
 CHOLANGITIS - LFTs have improved after ERCP. No further evidence of
   cholangitis. No abd tenderness.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION) - no further + BC. Remains on
   rx for Klebsiella and [**Female First Name (un) **]. Repeating surveillance cx
 ANEMIA, OTHER - hct slowly drifting down. Likely por production as
   well as continued medical losses and neck hematoma. Tx for hgb<7
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE) - ASA and beta
   blocker
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - creat is stable at
   1.8 - all meds dosed appropriately
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-3-16**] 11:13 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-3-12**] 10:44 PM
   Multi Lumen - [**2145-3-16**] 02:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2145-03-18 10:39:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2145-3-17**] 07:32 PM
   placed at OSH on [**3-11**]
   Continuing to pass large bloody stools, pressor requirement increasing.
                                History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-3-15**] 12:00 PM
   Caspofungin - [**2145-3-17**] 04:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-3-18**] 03:22 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-3-17**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2145-3-18**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 62 (55 - 78) bpm
   BP: 111/62(74){81/42(51) - 122/73(80)} mmHg
   RR: 30 (0 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 10 (10 - 14)mmHg
   Total In:
                                                                  4,548 mL
                                                                    723 mL
   PO:
   TF:
                                                                    586 mL
   IVF:
                                                                  1,827 mL
                                                                    573 mL
   Blood products:
                                                                  1,294 mL
   Total out:
                                                                  1,520 mL
                                                                    720 mL
   Urine:
                                                                  1,520 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,028 mL
                                                                      3 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: 7.39/43/65/26/Units: mEq/L
   Ve: 13.1 L/min
   PaO2 / FiO2: 130
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: R base)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   77 K/uL
   84 mg/dL
   1.8 mg/dL
   26 mEq/L
   3.4 mEq/L
   50 mg/dL
   109 mEq/L
   142 mEq/L
   21.8 %
   5.4 K/uL
        [image002.jpg]
                             [**2145-3-17**]  12:13 PM
                             [**2145-3-17**]  12:45 PM
                             [**2145-3-17**]  01:38 PM
                             [**2145-3-17**]  02:40 PM
                             [**2145-3-17**]  06:00 PM
                             [**2145-3-17**]  07:17 PM
                             [**2145-3-17**]  11:25 PM
                             [**2145-3-18**]  03:26 AM
                             [**2145-3-18**]  04:15 AM
                             [**2145-3-18**]  10:02 AM
   WBC
   6.1
   5.5
   5.4
   Hct
   24.0
   24.5
   27.1
   26.2
   25.6
   21.8
   Plt
   78
   76
   77
   Cr
   1.8
   TCO2
   26
   27
   26
   27
   Glucose
   84
   Other labs: PT / PTT / INR:13.5/39.1/1.2, CK / CKMB /
   Troponin-T:24/3/0.03, ALT / AST:15/22, Alk Phos / T Bili:73/0.6,
   Amylase / Lipase:64/18, Differential-Neuts:91.0 %, Band:1.0 %,
   Lymph:5.0 %, Mono:2.0 %, Eos:Units: %
   Range: 0-4 %, D-dimer:2864 ng/mL, Fibrinogen:164 mg/dL, Lactic Acid:0.9
   mmol/L, Albumin:2.0 g/dL, LDH:334 IU/L, Ca++:6.4 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  PaO2 dropping, likely due
   to pulmonary edema in the setting of PRBCs.  Lack of response to
   increased FiO2 suggests shunt, which may be due to pulmonary
   hypertension.  PaO2 acceptable, will not change vent settings at this
   point.
 CHOLANGITIS
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION): Initially septic shock,
   progressing to hypovolemic shock in setting of GI bleed.  Will volume
   resuscitate with blood products, increase levophed for goal MAP >55,
   UOP.  Will cont vanc for MRSA pna, zosyn for klebsiella bacteremia, and
   caspofungin for fungemia.  Ophtho exam unremarkable.  Lines have been
   changed.
 ANEMIA, OTHER: Likely due to a GI bleed.  Initially ascribed to
   activated protein C, but continued bleeding in absence of this is
   concerning for sphincterotomy bleed.  GI is following, will discuss EGD
   with them.  Will transfuse PRBCs.  Also concern for DIC given
   coagulopathy, decreased platelets, and dropping fibrinogen.
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):  s/p recent
   NSTEMI.  Holding aspirin given GI bleed.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  UOP acceptable.
   Creatinine stable.
   ICU Care
   Nutrition:
   Comments: Tube feeds held given GI bleed.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2145-3-16**] 02:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:
   Patient is critically ill